US06313312B1
Ethyl 2-(bromomethyl)-3-(3-nitrophenyl)cyclopropane carboxylate
To a solution of 1-[(E)-3-bromo-1-propenyl]-3-nitrobenzene (Preparation 22, 820 mg, 3.23 mmol) in dichloromethane (3 ml) was added rhodium (II) acetate dimer (20 mg, 0.046 vmnol). To the mixture was added dropwise at room temperature over 3 h a solution of ethyl diazoacetate (0.47 ml, 510 mg, 4.47 mmol) in dichloromethane (3 ml), then the mixture was stirred at room temperature for 66 h. The mixture was purified by silica (100 g) column chromatography eluting with hexane:dichloromethane 100:0 to 50:50. Product containing fractions were combined and concentrated in vacuo to afford the title compound as a colourless oil (65 mg, 7%).

reactant | 1-[(E)-3-bromo-1-propenyl]-3-nitrobenzene | 3.23 mmol, 820 mg | BrC/C=C/C1=CC(=CC=C1)[N+](=O)[O-] | C9H8BrNO2
reactant | ethyl diazoacetate | 4.47 mmol, 0.47 ml, 510 mg | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
catalyst | rhodium (II) acetate dimer | 20 mg | CC(=O)O.CC(=O)O.CC(=O)O.CC(=O)O.[Rh].[Rh]
product | Ethyl 2-(bromomethyl)-3-(3-nitrophenyl)cyclopropane carboxylate | 65 mg, 7% | BrCC1C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC | C13H14BrNO4
